US07244728B2
e) 8-{2-[1,1-dimethyl-2-(4-trifluoromethoxy-phenyl)-ethylamino]-1-hydroxy-ethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one
The target compound is obtained by reacting 357 mg (1 mmol) 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one with 233 mg (1 mmol) 1,1-dimethyl-2-(4-trifluoromethoxy-phenyl)-ethylamine using the method described for Example 2c). Beige solid. Yield: 279 mg (50%, trifluoroacetate); mass spectroscopy: [M+H]+=441.

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 357 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | 1,1-dimethyl-2-(4-trifluoromethoxy-phenyl)-ethylamine | 1 mmol, 233 mg | CC(CC1=CC=C(C=C1)OC(F)(F)F)(C)N | C11H14F3NO
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 8-{2-[1,1-dimethyl-2-(4-trifluoromethoxy-phenyl)-ethylamino]-1-hydroxy-ethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one | CC(CC1=CC=C(C=C1)OC(F)(F)F)(C)NCC(O)C1=CC(=CC=2NC(COC21)=O)O | C21H23F3N2O5
